US07625938B2
Ethyl 4-{1-[3-(3,5-dichlorophenyl)-5-oxo-4,5-dihydro-1H-pyrazol-1-yl]ethyl}benzoate (2.23 g, 5.50 mmol) was dissolved in MeOH-dioxane (1:1, 50 ml). A solution of NaOH (0.7 g/15 ml) was added. The mixture was heated to 60° C. for 1 hr. This was acidified with 2N HCl (10 ml), and the solvent was removed and residue vacuum dried to give a pale yellow solid (mixture of product acid and NaCl). This solid was suspended in DMF (15 ml), followed with DIEA (4.8 ml), beta-alanine t-butyl ester hydrochloride (3 g). A solution of PyBOP (3.43 g) in DMF (5 ml) was then added. After stirring at room temperature for 3 hr, more PyBOP (1 g) was added and the reaction mixture was stirred overnight. After addition of water (5 ml), the mixture was heated to 60° C. for 30 min. Ethyl acetate (150 ml) was added, and the organic layer was washed with 0.5 N HCl 2×, 5% K2CO3 2×, brine 2×. Evaporation of solvent gave an oily residue, which after flash column chromatography (SiO2, 0-30% ethyl acetate in DCM) afforded tert-butyl N-(4-{1-[3-(3,5-dichlorophenyl)-5-oxo-4,5-dihydro-1H-pyrazol-1-yl]ethyl}benzoyl)-β-alaninate as a white solid. NMR (500 MHz, DMSO-d6) δ: 1.37 (s, 9H); 1.78 (d, J=7.1 Hz, 3H); 2.45 (t, J=7.0 Hz, 2H); 3.42 (q, J=7.0 Hz, 2H); 5.56 (q, J=7.1 Hz, 1H); 5.99 (s, 1H); 7.30 (d, J=8.3 Hz, 2H); 7.47 (t, J=1.0 Hz, 1H). 7.73 (d, J=8.3 Hz, 2H); 7.76 (d, J=1.9 Hz, 2H); 8.43 (t, J=5.6 Hz, 1H); 11.34 (s, 1H). MS C25H27Cl2N3O4 Cald: 503.14; Obsd (M+Na): 526.05.

reactant | Ethyl 4-{1-[3-(3,5-dichlorophenyl)-5-oxo-4,5-dihydro-1H-pyrazol-1-yl]ethyl}benzoate | 5.50 mmol, 2.23 g | ClC=1C=C(C=C(C1)Cl)C1=NN(C(C1)=O)C(C)C1=CC=C(C(=O)OCC)C=C1 | C20H18Cl2N2O3
reactant | NaOH | 15 ml, 0.7 g | [OH-].[Na+]
reactant | HCl | 2N, 10 ml | Cl | ClH
reactant | NaCl | [Na+].[Cl-]
reactant | DIEA | 4.8 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | beta-alanine t-butyl ester hydrochloride | 3 g | Cl.C(C)(C)(C)OC(CCN)=O
reactant | PyBOP | 3.43 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | PyBOP | 1 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | MeOH dioxane | 50 ml | CO.O1CCOCC1
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 5 ml | O | H2O
product | tert-butyl N-(4-{1-[3-(3,5-dichlorophenyl)-5-oxo-4,5-dihydro-1H-pyrazol-1-yl]ethyl}benzoyl)-β-alaninate | ClC=1C=C(C=C(C1)Cl)C1=NN(C(C1)=O)C(C)C1=CC=C(C(=O)NCCC(=O)OC(C)(C)C)C=C1 | C25H27Cl2N3O4
